US07361719B2
700 mg (2.024 mmol) of 1-cyclopropyl-6-fluoro-1,4-dihydro-7-(1-piperazinyl)-4-oxo-3-quinoline carboxylic acid were added to a round 3-neck flask of 50 ml under a nitrogen atmosphere, and then stirred at room temperature for 10 minutes after 30 ml of chloroform and 0.491 ml (3 mmol) of pyridine were added thereto. While the temperature of the inside of the container was kept at −10° C., 0.197 ml (2.024 mmol) of methacryloylchloride was slowly dripped thereinto. After reaction for 3 hours, distilled water was added to the reactants, which were then extracted with dichloromethane, concentrated, and chromatographed (20 gm silica, 7% MeOH/CH2Cl2) to give 1-cyclopropyl-6-fluoro-1,4-dihydro-7-[4-(2-methyl-1-oxo-2-propenyl)-1-piperazinyl]-4-oxo-3-quinoline carboxylic acid.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-7-(1-piperazinyl)-4-oxo-3-quinoline carboxylic acid | 2.024 mmol, 700 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C17H18FN3O3
reactant | pyridine | 3 mmol, 0.491 ml | N1=CC=CC=C1 | C5H5N
reactant | methacryloylchloride | 2.024 mmol, 0.197 ml | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-7-[4-(2-methyl-1-oxo-2-propenyl)-1-piperazinyl]-4-oxo-3-quinoline carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C(C(=C)C)=O)F)=O)C(=O)O | C21H22FN3O4
